US06831080B2
Preparation of (S)-N-{1-[3-(2-Aminomethyl-morpholin-4-yl)-phenyl]-ethyl}-3-(3,4-difluoro-phenyl)-acrylamide
The solution of (S)-[4-(3-{1-[3-(3,4-difluoro-phenyl)-acryloylamino]-ethyl}-phenyl)-morpholin-2-ylmethyl]-carbamic acid tert-butyl ester, Example 125 (about 24 mg), and hydrochloric acid (1.0M solution in diethyl ether) (0.3 ml) in methanol (0.3 ml) was stirred at room temperature overnight. Concentrated under vacuum and sticky oil was filtered through 2 g anion-exchange cartridge with methanol. Filtrate was concentrated under vacuum and the title compound was obtained as pale yellow solid (quantitative yield).

reactant | (S)-[4-(3-{1-[3-(3,4-difluoro-phenyl)-acryloylamino]-ethyl}-phenyl)-morpholin-2-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@H]1CN(CCO1)C1=CC(=CC=C1)C(C)NC(C=CC1=CC(=C(C=C1)F)F)=O)=O | C27H33F2N3O4
reactant | hydrochloric acid | 1.0M, 0.3 ml | Cl | ClH
solvent | methanol | 0.3 ml | CO | CH4O
product | (S)-N-{1-[3-(2-Aminomethyl-morpholin-4-yl)-phenyl]-ethyl}-3-(3,4-difluoro-phenyl)-acrylamide | NCC1CN(CCO1)C=1C=C(C=CC1)[C@H](C)NC(C=CC1=CC(=C(C=C1)F)F)=O | C22H25F2N3O2
